US06034127
a) 3-Chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester
5 Orcinol monohydrate (1.42 g, 10 mmol) and 3-chlorobenzenesulfonyl chloride (2.43 g, 11 mmol) were mixed in saturated NaHCO3 (30 mmL and diethyl ether (30 mL). The biphasic mixture was stirred vigorously at room temperature for 2 days. After adding water (50 mL) to the mixture, the mixture was extracted with ethyl acetate (3×50 mL). The organic phase was then washed with brine (2×50 mL) and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by flash column chromatography (2% ethyl acetate in methylene chloride) to give the title compound as a pale-yellow liquid (2.08 g, 69% ). 1H-NMR (300 MHz, CDCl3) δ 2.24 (s, 3H), 5.32 (s, 1H), 6.33 (t, 1H, J=2.2 Hz), 6.40 (s, 1H), 6.57 (s, 1H), 7.48 (t, 1H, J=8.0 Hz), 7.65 (m, 1H), 7.73 (m, 1H), and 7.86 (t, 1H, J=1.8 Hz).

reactant | Orcinol monohydrate | 10 mmol, 1.42 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 3-chlorobenzenesulfonyl chloride | 11 mmol, 2.43 g | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | diethyl ether | 30 mL | C(C)OCC | C4H10O
reactant | water | 50 mL | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-Chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester | 2.08 g, 69% | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC(=CC=C1)Cl | C13H11ClO4S
